US07943763B2
The present invention provides a process for preparing 5-acetamido-3,5,7-trideoxy-7-fluoro-D-glycero-1-D-lacto-2-nonulopyranosidonic acid comprising hydrogenating benzyl 2-azido-2,4-dideoxy-4-fluoro-β-D-mannopyranoside in the presence of acetic anhydride to obtain N-acetyl-4-deoxy-4-fluoro-D-mannosamine, and subsequently reacting the product with sodium piruvate, bovine serum albumin and aldolase sialate.

reactant | benzyl 2-azido-2,4-dideoxy-4-fluoro-β-D-mannopyranoside | N(=[N+]=[N-])[C@@H]1[C@H](OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1O)F)CO | C13H16FN3O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-acetyl-4-deoxy-4-fluoro-D-mannosamine | C(C)(=O)N[C@@H]1C(O)O[C@@H]([C@H]([C@@H]1O)F)CO | C8H14FNO5
